US05866572
Lithium aluminium hydride (1M in diethyl ether, 28.3 ml) was added slowly to a stirred solution of N-[2-(2-thienyl)acetyl]morpholine (3 g) in THF (100 ml). The resultant mixture was heated to 45° C. for 30 minutes. A 2M aqueous hydrochloric acid solution was added dropwise to destroy the excess of reducing agent and the mixture was partitioned between methylene chloride and a 2M aqueous sodium hydroxide solution. The organic phase was washed with brine, dried (MgSO4) and evaporated to give 2-(2-morpholinoethyl) -thiophene (1.7 g).

reactant | Lithium aluminium hydride | 1M, 28.3 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-[2-(2-thienyl)acetyl]morpholine | 3 g | S1C(=CC=C1)CC(=O)N1CCOCC1 | C10H13NO2S
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(2-morpholinoethyl) -thiophene | 1.7 g | O1CCN(CC1)CCC=1SC=CC1 | C10H15NOS
